US05073566
N-(Diphenylmethyl)-1H-imidazole-4-carboxamide
A mixture of 11.7 g of 4-imidazolecarboxylic acid, 18.7 g of 1,1'-carbonyldiidmidazole, 20 ml of diisopropylethylamine and 600 ml of DMF was heated at 35° C. for approximately 18 hours. Twenty milliters of aminodiphenylmethane were added and the solution stirred at 35° C. for approximately 21/2 days. The mixture was concentrated in vacuo and the residue added to 400 ml of water. The mixture was extracted with ethyl acetate and the organic layer was washed with a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. Two crystallizations from hot ethyl acetate/hexane provided 11 grams of the desired titled intermediate, m.p. 201°-202° C.

reactant | 4-imidazolecarboxylic acid | 11.7 g | N1C=NC(=C1)C(=O)O | C4H4N2O2
reactant | diisopropylethylamine | 20 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | aminodiphenylmethane | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
product | N-(Diphenylmethyl)-1H-imidazole-4-carboxamide | 11 grams | C1(=CC=CC=C1)C(NC(=O)C=1N=CNC1)C1=CC=CC=C1 | C17H15N3O
